* C:\users\user\Meine Dokumente\Dokumente\github_projects\atmelmca\peakhold.asc
V1 N001 0 5
V2 0 N011 5
D2 N003 N005 BAT54
C1 N005 0 100p
D1 N006 N003 BAT54
R1 N004 N003 1k
R2 N004 0 10k
V3 N002 0 PULSE(0 {x} 0 10µ 150µ 10µ 1 1)
XU1 N002 N005 N001 N011 N006 TL084
XU2 N008 N004 N001 N011 N004 TL084
R3 N007 0 10k
V4 N009 0 50m
R4 N007 N010 1k
XU4 N009 N002 N001 N011 N007 LTC6752
C2 0 N010 1n
R5 N008 N005 470
M1 N008 N010 0 0 BSS123
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 200µ 0µ
.include TL084.301
.step param x 100m 2 100m
.lib LTC7.lib
.backanno
.end
